US07820683B2
N-methyl-2-[(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]acetamide
Using the same procedure as in Example 5, methyl [(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]acetate (250 mg, 0.55 mmol) was reacted with methylamine to give the title compound as a white solid (185 mg, 76%), except that the residue was purified by chromatography on silica gel (eluant: 5% to 6% methanol in DCM). NMR Spectrum 2.73 (d, 3H), 4.88 (s, 2H), 5.77 (s, 2H), 6.97 (m, 2H), 7.29 (m, 1H), 7.37 (d, 1H), 7.76-7.69 (m, 3H), 7.84 (m, 1H), 8.16 (s, 1H), 8.32 (m, 1H), 8.54 (m, 3H), 10.84 (br s, 1H); Mass spectrum MH+ 440.

reactant | methyl [(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]acetate | 0.55 mmol, 250 mg | N1=C(C=CC=C1)CN1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=CC(=C12)OCC(=O)OC | C24H20N6O3
reactant | methylamine | CN | CH5N
product | N-methyl-2-[(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]acetamide | 185 mg, 76% | CNC(COC1=C2C(=NC=NC2=CC=C1)NC=1C=C2C=NN(C2=CC1)CC1=NC=CC=C1)=O | C24H21N7O2
